US07507734B2
4-(3-Morpholin-4-ylmethyl-1H-indol-2-yl)-6-pyridin-4-yl-2H-pyridazin-3-one
A solution of 14 ul formaldehyde (37% solution in water) and 17 ul morpholine in 0.5 ml glacial acetic acid is added dropwise at 0° C. to 50 mg 4-(1H-Indol-2-yl)-6-pyridin-4-yl-2H-pyridazin-3-one suspended in 2.24 ml glacial acetic acid and 2.6 ml 1,4-Dioxan. The resulting mixture is stirred for 3 h at room temperature, subsequently poured into ice/water and the pH is adjusted to 13.3 with 2N Sodium Hydroxide. The product is isolated by filtration.

reactant | formaldehyde | 14 ul | C=O | CH2O
reactant | morpholine | 17 ul | N1CCOCC1 | C4H9NO
reactant | 4-(1H-Indol-2-yl)-6-pyridin-4-yl-2H-pyridazin-3-one | N1C(=CC2=CC=CC=C12)C=1C(NN=C(C1)C1=CC=NC=C1)=O | C17H12N4O
reactant | Sodium Hydroxide | 2N | [OH-].[Na+]
solvent | acetic acid | 0.5 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 2.24 ml | C(C)(=O)O | C2H4O2
solvent | 1,4-Dioxan | 2.6 ml | O1CCOCC1 | C4H8O2
product | 4-(3-Morpholin-4-ylmethyl-1H-indol-2-yl)-6-pyridin-4-yl-2H-pyridazin-3-one | N1(CCOCC1)CC1=C(NC2=CC=CC=C12)C=1C(NN=C(C1)C1=CC=NC=C1)=O | C22H21N5O2
